Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][C:3]([H:4])([H:5])[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.79879916214
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],4.40298018541
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8],1.40971735993
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:7].[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:8]\[C:9]([H:10])([H:11])[H:12],2.01590962166
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.4687884241
[C:5]([H:6])#[C:7][H:8].[H:1][C:2]=[C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-2.16651959762
[H:1][O:2][C:3]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:4]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.194927433999999
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[O:4])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],-0.29671157112
[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-2.09468189071
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[O:2],3.32927563
[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.86186421462
[C:8]=[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.22460288264
[H:7].[O:1]1[C:2](/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])=[C:3]1[H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.49798725586
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-8.257757259089999
[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7].[H:8]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-1.93353296489
[C:4]([H:5])([H:6])([C:7])[H:11].[H:1][C:2]#[C:3][C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-3.03863520743
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.85105055839
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:9][H:10].[O:11][H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12],-4.58727636739
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],4.02734131859
[O:1]=[C:2]([H:3])[O:4][H:5]>>[O:1]=[C:2][H:3].[O:4][H:5],6.022255122969999
[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-3.88669709274
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:6],4.95195403671
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:1][O:2],5.40615813575
[C:1]#[C:2][C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[C:3]([H:4])([H:5])[H:6]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.5827401609
[C:8]=[C:9]([H:10])[H:11].[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-6.919563353380001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:11]([H:12])([H:13])[O:14][H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],3.71364141264
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12],5.0918567719
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7],4.74547017592
